US06376672B1
In analogy to the procedure described in example 1) (k) the (3R,4R,5S)-3-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-5-[(2R)-oxiranylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester was treated with [1,2,4]triazol and sodium hydride in N,N-dimethylformamide to yield the (3S,4R,5R)-3-[(2R)-2-hydroxy-3-[1,2,4]triazol-1-yl-propoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester as colorless oil; MS: 784 (M+H)+.

reactant | (3R,4R,5S)-3-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-5-[(2R)-oxiranylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H]([C@@H](C1)OC[C@@H]1OC1)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)[N+](=O)[O-])OCC1=CC2=CC=CC=C2C(=C1)OC | C40H46N2O10
reactant | [1,2,4]triazol | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | [H-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (3S,4R,5R)-3-[(2R)-2-hydroxy-3-[1,2,4]triazol-1-yl-propoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)[N+](=O)[O-])OC[C@@H](CN1N=CN=C1)O | C42H49N5O10
